US05256675
A solution of 2-acetylamino-5-(1-methylimidazol-2-ylthio)thiazole (7.0 g) in a mixture of acetic acid (100 ml) and aqueous 6N-hydrochloric acid (20 ml) was refluxed for 3.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was adjusted to pH 8 using aqueous sodium bicarbonate under ice cooling. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-(1-methylimidazol-2-ylthio)thiazole (4.9 g, yield: 83.9%). mp: 180°-190° C. (dec.) IR (Nujol): 3300, 3150, 1620, 1530, 1280, 1220 cm-1

reactant | 2-acetylamino-5-(1-methylimidazol-2-ylthio)thiazole | 7.0 g | C(C)(=O)NC=1SC(=CN1)SC=1N(C=CN1)C | C9H10N4OS2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-(1-methylimidazol-2-ylthio)thiazole | 4.9 g, yield: 83.9% | NC=1SC(=CN1)SC=1N(C=CN1)C | C7H8N4S2
